US06294532B1
4-Hydroxy-5-methoxy-2-nitrobenzamide (1.86 g, 9.5 mmol) and 2-(4-pyridyloxy)ethyl paratoluene sulphonate (3.3 g, 11.2 mmol) were mixed in the presence of potassium carbonate (1.7 g, 12.3 mmol) and anhydrous DMF (25 ml) and heated at 80° C. for 2 hours. The reaction mixture was allowed to cool overnight, the DMF was removed by evaporation and the residue was quenched into water (250 ml). The solid was collected by filtration and washed with a mixture of acetone/ether (1/1) to give 5-methoxy-2-nitro-4-(2-(4-pyridyloxy)ethoxy)benzamide as a cream solid (2.16 g, 68%).

reactant | 4-Hydroxy-5-methoxy-2-nitrobenzamide | 9.5 mmol, 1.86 g | OC1=CC(=C(C(=O)N)C=C1OC)[N+](=O)[O-] | C8H8N2O5
reactant | 2-(4-pyridyloxy)ethyl paratoluene sulphonate | 11.2 mmol, 3.3 g | C1(=CC=C(C=C1)S(=O)(=O)OCCOC1=CC=NC=C1)C | C14H15NO4S
reactant | potassium carbonate | 12.3 mmol, 1.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 5-methoxy-2-nitro-4-(2-(4-pyridyloxy)ethoxy)benzamide | 2.16 g, 68% | COC=1C(=CC(=C(C(=O)N)C1)[N+](=O)[O-])OCCOC1=CC=NC=C1 | C15H15N3O6
